US07700633B2
To a solution of 4-benzyloxy-2-hydroxybenzaldehyde (0.5 g, 2.2 mmol) in 4.4 mL of acetic acid, at 0° C., is added nitric acid (0.28 mL, 4.4 mmol) dropwise. The mixture is stirred at ambient temperature for 18 h. The mixture is poured into water and extracted with EtOAc. The organic layer is washed with water, sat. NaCl and dried over sodium sulfate. The solvent is removed under reduced pressure and the crude material is purified by flash chromatography using hexane/EtOAc (6:1) to afford 4-benzyloxy-2-hydroxy-5-nitrobenzaldehyde as a yellow solid: 1H NMR (acetone-d6) δ 11.84 (s, 1H), 10.08 (s, 1H), 8.59 (s, 1H), 7.64-7.45 (m, 5H), 6.99 (s, 1H), 5.54 (s, 2H); (M−H)−=272.

reactant | 4-benzyloxy-2-hydroxybenzaldehyde | 2.2 mmol, 0.5 g | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)O | C14H12O3
reactant | nitric acid | 4.4 mmol, 0.28 mL | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | acetic acid | 4.4 mL | C(C)(=O)O | C2H4O2
product | 4-benzyloxy-2-hydroxy-5-nitrobenzaldehyde | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1[N+](=O)[O-])O | C14H11NO5
